US06642227B2
5-Acetyl-4-cyclohexyl-2-methylsulfanyl-thiophene-3-carbonitrile
To a solution of 3-cyclohexyl-3-oxo-propionitrile in DMF:CS2 (1:1) was added K2CO3 at 0° C. and the reaction mixture stirred at ambient temperature for 2 hours. To the resulting reaction mixture was added chloroacetone (1 equivalent) and the reaction mixture stirred at ambient temperature for 3 hours. Iodomethane was then added and the resulting mixture was stirred at ambient temperature overnight. The reaction mixture was partitioned between ethyl acetate and brine, the organic phase dried with MgSO4 and the solvent was removed under reduced pressure. The crude product was purified by silica gel chromatography.

reactant | 3-cyclohexyl-3-oxo-propionitrile | C1(CCCCC1)C(CC#N)=O | C9H13NO
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | chloroacetone | 1 equivalent | ClCC(C)=O | C3H5ClO
reactant | Iodomethane | IC | CH3I
reactant | DMF CS2 | CN(C)C=O.C(=S)=S
product | 5-Acetyl-4-cyclohexyl-2-methylsulfanyl-thiophene-3-carbonitrile | C(C)(=O)C1=C(C(=C(S1)SC)C#N)C1CCCCC1 | C14H17NOS2
